US09422285B2
rac-3-(3,4-Difluorophenoxy)-2-methylpropane-1,2-diamine
300 mg (1.41 mmol) of rac-2-amino-3-(3,4-difluorophenoxy)-2-methylpropanonitrile were initially charged in 14.4 ml of abs. THF, and 0.92 ml (0.92 mmol) of a 1 N lithium aluminium hydride solution in diethyl ether was added under argon at 0° C. The reaction solution was stirred at 0° C. for 30 min, then allowed to warm up gradually to room temperature and stirred overnight. The reaction mixture was admixed cautiously with 140 μl of water, 140 μl of 2 N aqueous sodium hydroxide solution and 280 μl of water, the precipitate was filtered off and washed with THF and methanol, the filtrate was concentrated and the residue was purified by means of silica gel chromatography (eluent:dichloromethane/2 N ammonia in methanol=20/1). 87 mg of the target compound were obtained (24% of theory, about 84% purity).

reactant | rac-2-amino-3-(3,4-difluorophenoxy)-2-methylpropanonitrile | 1.41 mmol, 300 mg | NC(C#N)(COC1=CC(=C(C=C1)F)F)C | C10H10F2N2O
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium aluminium hydride | 1 N | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 N, 140 μl | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 280 μl | O | H2O
solvent | water | 140 μl | O | H2O
product | rac-3-(3,4-Difluorophenoxy)-2-methylpropane-1,2-diamine | 87 mg | FC=1C=C(OCC(CN)(N)C)C=CC1F | C10H14F2N2O
